US04863904
A mixture of 209 mg of (+)-2-(1-naphthylmethyl)-6-phenylhexanoic acid and 411 mg of bis(p-toluenesulfonic acid) salt of L-histidyl-L-leucinal semicarbazone was dissolved in 3 ml of N,N-dimethylformamide, and then to the solution were successively added 0.163 ml of diphenylphosphoryl azide and 0.29 ml of triethylamine with stirring under ice-cooling. The reaction mixture was stirred overnight while ice-cooling. A 5% aqueous sodium bicarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: chloroform/methanol=15/1 by volume) to obtain 222 mg of N-[(+)-2-(1-naphthylmethyl)-4-phenylhexanoyl]-L-histidyl-L-leucinal semicarbazone as a white powder.

reactant | (+)-2-(1-naphthylmethyl)-6-phenylhexanoic acid | 209 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CCCCC1=CC=CC=C1 | C23H24O2
reactant | L-histidyl-L-leucinal semicarbazone | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C13H23N7O2
reactant | diphenylphosphoryl azide | 0.163 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
product | N-[(+)-2-(1-naphthylmethyl)-4-phenylhexanoyl]-L-histidyl-L-leucinal semicarbazone | 222 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CC(CC)C1=CC=CC=C1 | C36H45N7O3
